US05462940
A stirred solution of 1-[[[5-(4-chlorophenyl)-2-furanyl]methlene]amino]-3-(4-chlorobutyl)-2,4-imidazolidinedione (5.0 g, 0.0127 mole), (prepared and described above), dimethylformamide (150 ml), sodium iodide (3.8 g, 0.0254 mole), K2CO3 (1.76 g, 0.0127 mole) and 4-piperidineethanol (4.1 g, 0.0318) is heated on a steam bath for 1.5 hour. After cooling, the mixture is concentrated under reduced pressure to a semi-solid residue. This residue is suspended in H2O (300 ml) and is then extracted with CH2Cl2. The extract is washed with H2O (3×100 ml) then dried over MgSO4 (activated charcoal). The filtered solution is concentrated under reduced pressure to a solid residue. This is triturated with anhydrous ether, collected, and air-dried. This solid is dissolved in absolute EtOH (300 ml) with warming, cooled and made acidic with EtOH/HCl. After cooling on ice several hours, the solid is collected, washed with anhydrous ether, air-dried and dried at 70° to give 4.05 g (0.077 mole) of (4-chlorophenyl)-2-furanyl]methylene]amino]-3-[4-[4-(2-hydroxyethyl)piperidinyl]butyl]-2,4-imidazolidinedione hydrochloride.

reactant | 1-[[[5-(4-chlorophenyl)-2-furanyl]methlene]amino]-3-(4-chlorobutyl)-2,4-imidazolidinedione | 0.0127 mole, 5.0 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C=NN1C(N(C(C1)=O)CCCCCl)=O | C18H17Cl2N3O3
reactant | sodium iodide | 0.0254 mole, 3.8 g | [I-].[Na+]
reactant | K2CO3 | 0.0127 mole, 1.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-piperidineethanol | 4.1 g | N1CCC(CC1)CCO | C7H15NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-[4-[4-(2-hydroxyethyl)piperidinyl]butyl]-2,4-imidazolidinedione hydrochloride | Cl.OCCC1CCN(CC1)CCCCN1C(NCC1=O)=O | InChI=1S/C14H25N3O3.ClH/c18-10-5-12-3-8-16(9-4-12)6-1-2-7-17-13(19)11-15-14(17)20;/h12,18H,1-11H2,(H,15,20);1H
